US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester
To an ice-cold flask with a rubber stopper were added 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde (2.29 g, 10 mol) and 3,4-diamino-benzoic acid methyl ester (1.83 g, 11 mmol) and the solid mixture was stirred at 0° C. for 15 min. Then DMA (10 mL) was added into the mixture via a syringe and the resulting solution was stirred at 0° C. for 1.5 h, and at the room temperature for 1.5 h. The rubber stopper was removed and the reaction mixture was stirred at 110° C. for 14 h open to the air. The DMA was removed under reduced pressure and the residue was mixed with 50 mL MeOH, and sonicated for 15 min. The mixture was filtered to get the solid precipitate, which was re-crystallized in 300 mL MeOH to afford the title compound (1.6 g, 42%). 1H NMR (DMSO-d6) δ 3.90 (s, 3H), 3.93 (s, 3H), 7.12-7.17 (2H), 7.65 (d, J=9 Hz, 1H), 7.76 (d, J=9 Hz, 1H), 7.83 (d, J=9 Hz, 1H), 7.91 (d, J=9 Hz, 1H), 8.20 (d, J=6 Hz, 1H), 8.26 (s, 1H), 8.29 (s, 1H). ESI-MS m/z 376.3 (MH+).

reactant | 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde | 10 mol, 2.29 g | OC1=C(C=O)C=C(C=C1)C=1C(=NC=CC1)OC | C13H11NO3
reactant | 3,4-diamino-benzoic acid methyl ester | 11 mmol, 1.83 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester | 1.6 g, 42% | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C21H17N3O4
